US07199135B2
Into a solution of tert-butyl 4-[2,4-difluoro-5-(isobutyrylamino)phenyl]-1-piperidinecarboxylate (6.54 g, 17.1 mmol) in 1,4-dioxane (40.0 mL) was added 4M HCl in 1,4-dioxane (160 mL) at room temperature. The reaction mixture was stirred for 1 h and concentrated in vacuo. The residue was dissolved in 100 mL of H2O and was basified with 10% KOH solution (50 mL). The aqueous layer was extracted with CHCl3/i-PrOH (3:1, 3×150 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give 4.72 g (16.7 mmol, 98%) of N-[2,4-difluoro-5-(4-piperidinyl)phenyl]-2-methylpropanamide: ESMS m/e: 283.3 (M+H)+.

reactant | tert-butyl 4-[2,4-difluoro-5-(isobutyrylamino)phenyl]-1-piperidinecarboxylate | 17.1 mmol, 6.54 g | FC1=C(C=C(C(=C1)F)NC(C(C)C)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C20H28F2N2O3
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 40.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | N-[2,4-difluoro-5-(4-piperidinyl)phenyl]-2-methylpropanamide | 16.7 mmol, 4.72 g, 98% | FC1=C(C=C(C(=C1)F)C1CCNCC1)NC(C(C)C)=O | C15H20F2N2O
